US05830915
To N-(diphenylphosphinyl)-N-benzyl-D-alanine methyl ester (100 mg, 0.25 mmol) is added a solution of NH2OK (0.88 mL, 1.76M in methanol) prepared as described in Fieser and Fieser, Vol. 1, p. 478. The reaction is stirred for 16 hours at which time TLC indicates completion. The reaction mixture is neutralized with 1M aqueous HCl and the volatiles are removed. The product is purified by silica gel flash chromatography (100% ethyl acetate) to give N-hydroxy-2(R)-[[diphenylphosphinyl]benzylamino]-propionamide as an oil: MS-IS m/z 395 [M+H]+, 417 [M+Na]+. (R1 =benzyl, R2 =methyl, R3 =phenyl, R4 =phenyl).

reactant | N-(diphenylphosphinyl)-N-benzyl-D-alanine methyl ester | 0.25 mmol, 100 mg | COC([C@H](N(CC1=CC=CC=C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C23H24NO3P
reactant | NH2OK | 1.76M, 0.88 mL | NO[K]
reactant | HCl | 1M | Cl | ClH
product | N-hydroxy-2(R)-[[diphenylphosphinyl]benzylamino]-propionamide | ONC([C@@H](C)N(CC1=CC=CC=C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H23N2O3P
